US08431563B2
A 250-mL round-bottomed flask was charged with (3S)-3-(tetrahydro-2H-pyran-4-ylmethyl)-2,5-piperazinedione (1.44 g, 6.78 mmol), 50 mL of THF, and LAH (1M in THF, 27.1 mL, 27.1 mmol, Sigma-Aldrich, St. Louis, Mo.). After heating at reflux for 2 h, the mixture was allowed to cool to room temperature. Sodium sulfate decahydrate (10 g) was then added and the mixture was stirred at temperature for 1 h. The mixture was filtered and the filtrate was concentrated to give (2S)-2-(tetrahydro-2H-pyran-4-ylmethyl)piperazine (0.950 g, 5.16 mmol) as a colorless oil.

reactant | (3S)-3-(tetrahydro-2H-pyran-4-ylmethyl)-2,5-piperazinedione | 6.78 mmol, 1.44 g | O1CCC(CC1)C[C@H]1C(NCC(N1)=O)=O | C10H16N2O3
reactant | LAH | 27.1 mmol, 1M, 27.1 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Sodium sulfate decahydrate | 10 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2S)-2-(tetrahydro-2H-pyran-4-ylmethyl)piperazine | 5.16 mmol, 0.950 g | O1CCC(CC1)C[C@@H]1NCCNC1 | C10H20N2O
